US09107916B2
A. (2E)-1-(3,4-Difluorophenyl)-3-(dimethylamino)prop-2-en-1-one
The title compound was prepared in 84% yield from 1-(3,4-difluorophenyl)ethanone and DMF-DMA according to the procedure for the preparation of Example 12, part A. 1H NMR (400 MHz, CDCl3): δ 2.93 (3H, s), 3.16 (3H, s), 5.62 (1H, d, J=12.0 Hz), 7.13-7.20 (1H, m), 7.63-7.76 (2H, m), 7.83 (1H, d, J=12.0 Hz).

reactant | 1-(3,4-difluorophenyl)ethanone | FC=1C=C(C=CC1F)C(C)=O | C8H6F2O
reactant | DMF-DMA | CN(C)C(OC)OC | C5H13NO2
product | (2E)-1-(3,4-Difluorophenyl)-3-(dimethylamino)prop-2-en-1-one | 84% yield | FC=1C=C(C=CC1F)C(\C=C\N(C)C)=O | C11H11F2NO
